US03946038
To a 500 ml. round bottom flask equipped with condenser, thermometer and a stirrer were introduced 118 g. (1.0 mole) of 4,5-dihydrothiophene 1,1-dioxide, 200 ml. of 70% by weight aqueous ethanol and 30 g. (0.5 mole) of 1,2-diaminoethane (ethylenediamine). The reaction mixture was heated at reflux (80°-85°C) for 4 hours. The solvent was then removed under a reduced pressure. The product, N,N'-bis(1,1-dioxotetrahydro-3-thienyl)-1,2-diaminoethane, obtained was a viscous liquid that became a solid, m.p. 60°-85°C. IR spectrum showed absorptions at 3300 cm-1 (NH), at 1300 cm-1 and 1140 cm-1 (SO2).

reactant | 4,5-dihydrothiophene 1,1-dioxide | 1.0 mole | S1(C=CCC1)(=O)=O | C4H6O2S
reactant | 1,2-diaminoethane | 0.5 mole | NCCN | C2H8N2
solvent | ethanol | C(C)O | C2H6O
product | N,N'-bis(1,1-dioxotetrahydro-3-thienyl)-1,2-diaminoethane | O=S1(CC(CC1)NCCNC1CS(CC1)(=O)=O)=O | C10H20N2O4S2
